US04263291
A mixture of ethyl 2-methoxyimino-3-t-butoxycarbonylhydrazonobutyrate (a mixture of syn and anti isomers) (28.7 g.) and thionyl chloride (30 ml.) was warmed with stirring on a water bath of 50° C. for 3 minutes and then stirred for 5 minutes at ambient temperature to give black solution. To the reaction mixture was added ethyl acetate (200 ml.) and the mixture was poured into ice-water (300 ml.). The ethyl acetate layer was separated, washed in turn with water, with a saturated aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride. After drying over magnesium sulfate, the ethyl acetate solution was treated with activated charcoal and concentrated to give black oil. The oil was purified by column chromatography on silica gel using a mixture of benzene and ethyl acetate (19:1) as an eluent to give ethyl 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetate (anti isomer) (4 g.).

reactant | ethyl 2-methoxyimino-3-t-butoxycarbonylhydrazonobutyrate | CON=C(C(=O)OCC)C(C)=NNC(=O)OC(C)(C)C | C12H21N3O5
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetate | 4 g | CON=C(C(=O)OCC)C=1N=NSC1 | C7H9N3O3S
